US08212059B2
2,2,3,3,3-Pentafluoropropylamine (produced by Synquest) (389 g) was dissolved in ethyl acetate (1.56 L), and N,N-dimethylaniline (316 g) was added thereto. After cooling the mixture to −10° C., bromoacetyl bromide (500 g) was added dropwise thereto, and the resulting mixture was stirred at a temperature between 10° C. and 0° C. for 2 hours. The organic layer was sequentially washed with aqueous hydrochloric acid, aqueous sodium bicarbonate and with brine, and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure to obtain 2-bromo-N-(2,2,3,3,3-pentafluoropropyl)acetamide (678 g) as a white powder.

reactant | 2,2,3,3,3-Pentafluoropropylamine | 389 g | FC(CN)(C(F)(F)F)F | C3H4F5N
reactant | N,N-dimethylaniline | 316 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 500 g | BrCC(=O)Br | C2H2Br2O
solvent | ethyl acetate | 1.56 L | C(C)(=O)OCC | C4H8O2
product | 2-bromo-N-(2,2,3,3,3-pentafluoropropyl)acetamide | 678 g | BrCC(=O)NCC(C(F)(F)F)(F)F | C5H5BrF5NO
